US07060827B2
In like manner to the preparation of N2,N4-bis(3-hydroxyphenyl)-5-fluoro-2,4-pyrimidinediamine, 2,4-dichloro-5-fluoropyrimidine and 3-chloro-4-fluoroaniline were reacted to yield N2,N4-bis(3-chloro-4-fluorophenyl)-5-fluoro-2,4-pyrimidinediamine. 1H NMR (CDCl3+CD3OD)): δ 7.81 (d, 1H), 7.60 (m, 1H), 7.58 (m, 1H), 7.38 (m, 1H), 7.19 (m, 1H), 7.0 (m, 2H); LCMS: ret. time: 28.98 min.; purity: 97%; MS (m/e): 385 (M+).

reactant | 2,4-dichloro-5-fluoropyrimidine | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | 3-chloro-4-fluoroaniline | ClC=1C=C(N)C=CC1F | C6H5ClFN
product | N2,N4-bis(3-chloro-4-fluorophenyl)-5-fluoro-2,4-pyrimidinediamine | ClC=1C=C(C=CC1F)NC1=NC=C(C(=N1)NC1=CC(=C(C=C1)F)Cl)F | C16H9Cl2F3N4
